US05071999
e) 5-Fluoro-7-methyl-2,7-diazabicyclo[3.3.0]octane
11 g (43.7 mmol, 93% pure) of 2-benzyl-5-fluoro 7-methyl-2,7-diazabicyclo[3.3.0]octane in 100 ml of ethanol are hydrogenated at 100° C. and 100 bar on 2 g of palladium-active carbon (10% Pd). The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | 2-benzyl-5-fluoro 7-methyl-2,7-diazabicyclo[3.3.0]octane | 43.7 mmol, 11 g | C(C1=CC=CC=C1)N1C2CN(CC2(CC1)F)C | C14H19FN2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium | 2 g | [Pd] | Pd
product | 5-Fluoro-7-methyl-2,7-diazabicyclo[3.3.0]octane | FC12CCNC2CN(C1)C | C7H13FN2
